US05143643
Then, 18.6 g of water was added to 18.6 g of 85% KOH, and under stirring, 25.8 g of the above diester was dropped in 30 min. at 20°-23° C. After the addition, the mixture was stirred for 4 hours at the temperature and extracted with benzene. The benzene layer was washed with 5% NaOH aqueous solution and added to the aqueous layer. The aqueous layer was acidified to pH 1 with 6N-hydrochloric acid and extracted with ether. The ether layer was washed with saturated NaCl aqueous solution and dried, followed by distilling-off of the ether to obtain 21.1 g of a slightly yellowish liquid. The liquid was stirred for 3 hours at 160°-170° C., and after cooling, water was added thereto, followed by extraction with benzene. The benzene layer was washed with 5% NaOH aqueous solution and added to the aqueous layer. The aqueous layer was acidified to pH 1 and extracted with ether, followed by washing with saturated NaCl aqueous solution, drying and distilling-off of the solvent to obtain 14.9 g of 6-pentyloxyheptanoic acid in the form of a yellow liquid.

reactant | KOH | 18.6 g | [OH-].[K+]
reactant | ethyl 6-pentyloxy-2-ethoxycarbonylheptanoate | 25.8 g | C(CCCC)OC(CCCC(C(=O)OCC)C(=O)OCC)C | C17H32O5
solvent | water | O | H2O
solvent | water | 18.6 g | O | H2O
product | 6-pentyloxyheptanoic acid | 14.9 g | C(CCCC)OC(CCCCC(=O)O)C | C12H24O3
